.title Bazz Fuss + Wool + EQ (alta impedenza)

V1 1 0 DC 9
R1 1 2 100k
D1 2 3 D1N914 Is=100e-15 N=1 Vt=0.026 Cj0=2e-12 Vj=0.75 Mj=0.5
C2 2 4 0.1e-6
Q1 2 3 0 2N5088 Bf=400 Br=1.271 Is=5.911e-15 Vt=0.026
C1 5 3 4.7e-6

* WOOL CONTROL
C_wool 2 6 1e-6
*R_wool 6 0 10k
Pwool 0 6 9 25k Pos=0.5 Taper=LIN
Rwoolload 9 0 10k

* EQ CONTROL
C_eq 4 7 220e-9
*R_eq 7 0 1M
Peq 0 7 10 1M Pos=0.5 Taper=LIN
Reqload 10 0 1

.input 5
.output 7
.warmup 10
.ctrl 0 Pwool
.ctrl 1 Peq